US05824793
3'-azido-5'-O-(tert-butyldimethylsilyl)-2',3'-dideoxyuridine, 1du. 2'-Deoxyuridine (11.4 g, 50 mmol) was thoroughly dried by coevaporating in vacuo with anhydrous DMF (2×100 mL). DMF (100 mL) was then added, followed by triethylamine (8.36 mL, 60 mmol), 4-dimethylaminopyridine (0.31 g, 2.5 mmol), and tert-butyldimethylsilyl chloride (8.29 g, 55.0 mmol). The reaction mixture was stirred for 1 h at RT, diluted with dichloromethane (600 mL) and extracted with H2O (3×200 mL), and saturated aq. NaCl (200 mL). The organic layer was dried over Na2SO4, filtered and concentrated in vacuo. The resulting residue was purified on silica (2-10% MeOH/CH2Cl2) to afford 80% yield (13.7 g, 40.0 mmol) of 5'-O-(tert-butyldimethylsilyl)-2'-deoxyuridine. Triphenylphosphine (16.8 g, 64.0 mmol) and DMF (100 mL) were added, and to this stirring mixture was added a solution of diisopropylazodicarboxylate (12.6 mL, 64.0 mmol) in DMF (20 mL). After stirring 2 h at RT, the reaction mixture was concentrated in vacuo to ca. 30 mL, and poured into Et2O (1200 mL). The desired 2,3'-anhydro-5'-O-(tert-butyldimethylsilyl)-2'-deoxyuridine began precipitating out after 10 min of rapid stirring. The resulting mixture was placed in the refrigerator overnight, the precipitate was collected by filtration, washed with additional cold Et2O (2×300 mL), and dried in vacuo to afford 90% yield (11.7 g, 36.0 mmol) of 2,3'-anhydro-5'-O-(tert-butyldimethylsilyl)-2'-deoxyuridine as a white solid, which was not purified further. The 2,3'-anhydro-5'-O-(tert-butyldimethylsilyl)-2'-deoxyuridine (33.8 g, 104.2 mmol) was then reacted with LiN3 (7.65 g, 156.3 mmol) in DMF (300 mL) at 95°-100° C. for 48 h. The resulting brown, homogeneous mixture was then cooled to RT, concentrated in vacuo to an oil, dissolved in EtOAc (800 mL), and extracted with H2O (200 mL). The aqueous layer was extracted twice more with EtOAc (75 mL), and the combined organics were washed with H2O (3×250 mL) and once with saturated. aq. NaCl (250 mL). The EtOAc solution was dried over Na2 SO4, filtered, and concentrated in vacuo, to afford 87% yield (33.2 g, 90.3 mmol) of 3'-azido-5'-O-(tert-butyldimethylsilyl)-2',3'-dideoxyuridine, 1du, as a brownish foam, which was taken on directly to hydrogenation.

reactant | 3'-azido-5'-O-(tert-butyldimethylsilyl)-2',3'-dideoxyuridine | N(=[N+]=[N-])[C@H]1C[C@@H](O[C@@H]1CO[Si](C)(C)C(C)(C)C)N1C(=O)NC(=O)C=C1 | C15H25N5O4Si
reactant | 2'-Deoxyuridine | 50 mmol, 11.4 g | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C=C1 | C9H12N2O5
reactant | triethylamine | 60 mmol, 8.36 mL | C(C)N(CC)CC | C6H15N
reactant | tert-butyldimethylsilyl chloride | 55.0 mmol, 8.29 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
catalyst | 4-dimethylaminopyridine | 2.5 mmol, 0.31 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 600 mL | ClCCl | CH2Cl2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 5'-O-(tert-butyldimethylsilyl)-2'-deoxyuridine | 40.0 mmol, 13.7 g, 80% yield | [Si](C)(C)(C(C)(C)C)OC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C=C1)O | C15H26N2O5Si
